US06545017B1
Using the general method of Example 11 Part H, 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine (0.304 g, 0.917 mmol) was reacted with 4-morpholinecarbonyl chloride (0.107 mL, 0.917 mmol) to provide 0.250 g of 2-(ethoxymethyl)-6,7-dimethyl-1-{2-[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine as an yellow orange solid, m.p. 158.1-160.5° C. Analysis: Calculated for C23H36N6O3: %C, 62.14; %H, 8.16; %N, 18.90; Found: %C, 62.02; %H, 7.94; %N, 18.99. 1H NMR (300 MHz, DMSO-d6) δ5.82 (s, 2 H), 4.64 (s, 2 H), 4.34-4.29 (m, 2 H), 3.62-3.54(m, 6 H), 3.50 (q, J=7.0 Hz, 2 H), 3.1 (t, J=4.4 Hz, 4 H), 2.74 (t, J=11.8 Hz, 2 H 2.38 (s, 3 H), 2.31 (s, 3 H), 1.67-1.55 (m, 5 H), 1.27-1.1 (m, 2H), 1.14 (t, J=7.0 Hz, 3 H); MS (CI) m/e 445.2935 (445.2927 calcd for C23H36N6O3, M+H).

reactant | 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine | 0.917 mmol, 0.304 g | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCC1CCNCC1 | C18H29N5O
reactant | 4-morpholinecarbonyl chloride | 0.917 mmol, 0.107 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 2-(ethoxymethyl)-6,7-dimethyl-1-{2-[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine | 0.250 g | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCC1CCN(CC1)C(=O)N1CCOCC1 | C23H36N6O3
